US09226922B2
A mixture of 3-(benzyloxy)-6-chloro-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridine (18.72 g, 36.3 mmol) and selenium dioxide (14.42 g, 130 mmol) in dioxane (200 ml) was heated to 100° C. with attached reflux condenser for 16 hr. Added more selenium dioxide (3.35 g, 30.2 mmol) and continued to heat to 100° C. for 4.5 hr. Cooled to RT, filtered through celite, eluted with EtOAc, concentrated filtated in vacuo, took up residue in DCM, filtered through celite, eluted with DCM, concentrated filtrate in vacuo and purified via flash chromatography (0-100% EtOAc/Hex) to provide 3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridine-4-carbaldehyde. MS: [M+H]+ m/z 530.

reactant | 3-(benzyloxy)-6-chloro-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridine | 36.3 mmol, 18.72 g | C(C1=CC=CC=C1)OC1=NN(C2=C1C(=NC(=C2)Cl)C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C33H26ClN3O
reactant | selenium dioxide | 130 mmol, 14.42 g | [Se](=O)=O | O2Se
reactant | selenium dioxide | 30.2 mmol, 3.35 g | [Se](=O)=O | O2Se
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridine-4-carbaldehyde | C(C1=CC=CC=C1)OC1=NN(C2=C1C(=NC(=C2)Cl)C=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C33H24ClN3O2
